US07601742B2
15.1 Preparation of 4-(3-cyclopentyloxy-4-methoxyphenyl)-1-(3-hydroxymethylphenyl)-pyrrolidin-2-one
A solution of 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzoic acid ethyl ester (20 mg, 0.05 mmol) in EtOH (0.5 mL) was added NaBH4 (5 mg, 0.135 mmol)). The mixture was stirred at r.t. for 12 h when water (1 mL) was added to quench the reaction. The mixture was poured into water (4 mL) and extracted twice with EtOAc. The combined organic layer was concentrated and purified by preparative LC-MS.

reactant | 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzoic acid ethyl ester | 0.05 mmol, 20 mg | C(C)OC(C1=CC(=CC=C1)N1C(CC(C1)C1=CC(=C(C=C1)OC)OC1CCCC1)=O)=O | C25H29NO5
reactant | NaBH4 | 0.135 mmol, 5 mg | [BH4-].[Na+]
reactant | water | 1 mL | O | H2O
reactant | water | 4 mL | O | H2O
solvent | EtOH | 0.5 mL | CCO | C2H6O
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1-(3-hydroxymethylphenyl)-pyrrolidin-2-one | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(N(C1)C1=CC(=CC=C1)CO)=O | C23H27NO4
